US08686048B2
Intermediate 47: 3-chloro-5-fluoro-3′,4′-dimethoxybiphenyl-4-amine
The title compound (39 mg) was prepared from 4-bromo-2-chloro-6-fluoroaniline (100 mg, 0.442 mmol) and 3,4-dimethoxyphenylboronic acid (80 mg, 0.62 mmol) as a pale-yellow solid.

reactant | 4-bromo-2-chloro-6-fluoroaniline | 0.442 mmol, 100 mg | BrC1=CC(=C(N)C(=C1)F)Cl | C6H4BrClFN
reactant | 3,4-dimethoxyphenylboronic acid | 0.62 mmol, 80 mg | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
product | 3-chloro-5-fluoro-3′,4′-dimethoxybiphenyl-4-amine | 39 mg | ClC=1C=C(C=C(C1N)F)C1=CC(=C(C=C1)OC)OC | C14H13ClFNO2
